US08791255B2
The product is prepared according to the procedure described in example 5, using 261 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 163 mg of 4-(ethoxy)indoline and 249 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 162 μl of pyridine and 4.0 ml of N,N-dimethylformamide. 260 mg of 2-[2-(4-ethoxy-2,3-dihydro-1H-indol-1-yl)-2-oxoethyl]-6-(morpholin-4-yl)pyrimidin-4(3H)-one are obtained in the form of a white powder, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 261 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 4-(ethoxy)indoline | 163 mg | C(C)OC1=C2CCNC2=CC=C1 | C10H13NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 249 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 162 μl | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | 2-[2-(4-ethoxy-2,3-dihydro-1H-indol-1-yl)-2-oxoethyl]-6-(morpholin-4-yl)pyrimidin-4(3H)-one | 260 mg | C(C)OC1=C2CCN(C2=CC=C1)C(CC1=NC(=CC(N1)=O)N1CCOCC1)=O | C20H24N4O4
